* c:\users\lenovo\esim-workspace\sigma_deltaadc\sigma_deltaadc.cir

.include avsd_opamp.sub
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
v2  analog_in gnd pulse(0 5 0.1n 0.1n 0.1n 10n 20n)
v3 net-_x1-pad1_ net-_x1-pad2_  dc 5
x1 net-_x1-pad1_ net-_x1-pad2_ net-_sc1-pad2_ net-_sc5-pad2_ dif_out gnd avsd_opamp
x2 net-_x2-pad1_ net-_x2-pad2_ gnd net-_sc3-pad2_ intg_out gnd avsd_opamp
v5 net-_x2-pad1_ net-_x2-pad2_  dc 5
x3 net-_x3-pad1_ net-_x3-pad2_ intg_out gnd comp_out gnd avsd_opamp
v6 net-_x3-pad1_ net-_x3-pad2_  dc 5
* u4  bit_out net-_sc5-pad1_ dac_bridge_1
* u1  analog_in plot_v1
* u3  dif_out plot_v1
* u6  intg_out plot_v1
* u10  bit_out plot_v1
* s c m o d e
xsc2 net-_sc2-pad1_ dif_out net-_sc1-pad3_ sky130_fd_pr__res_generic_pd W=1 L=5.2
xsc3 dif_out net-_sc3-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd W=1 L=5.2
xsc4 intg_out net-_sc3-pad2_ sky130_fd_pr__cap_mim_m3_1 W=500 L=1 M=1
* u7  comp_out plot_v1
xsc6 net-_sc1-pad2_ net-_sc2-pad1_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd W=1 L=5.2
xsc1 analog_in net-_sc1-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd W=1 L=5.2
xsc5 net-_sc5-pad1_ net-_sc5-pad2_ net-_sc1-pad3_ sky130_fd_pr__res_generic_pd W=1 L=5.2
* u2  comp_out bit_out adc_bridge_1
v1 net-_sc1-pad3_ gnd  dc 5
a1 [bit_out ] [net-_sc5-pad1_ ] u4
a2 [comp_out ] [bit_out ] u2
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 2e-09 10e-09 0e-09

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(analog_in)
plot v(dif_out)
plot v(intg_out)
plot v(bit_out)
plot v(comp_out)
.endc
.end
